US04533655
Methyl iodide (25 ml.), then sodium hydride (50% in oil, 7.2 g.), were added with stirring to a solution of N-benzyloxycarbonyl-D-alanine (11.16 g.) in tetrahydrofuran (125 ml.) and dimethylformamide (13 ml.). The mixture was then stirred under reflux for 24 hours. Water (100 ml.) was added, the pH was adjusted to 5.5 with hydrochloric acid and sodium bicarbonate, and the solvents were stripped. The residue was distributed between ether and aqueous citric acid (5%). The ether layer was washed successively with water, saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride, then dried over sodium sulfate and stripped of ether, affording N-benzyloxycarbonyl-N-methyl-D-alanine methyl ester as a red oil (14.5 g.), which still contained the oil from the sodium hydride-oil mixture. TLC (silica gel, 3:1 hexane-ethyl acetate) of the red oil showed a single spot (Rf ~0.5).

reactant | Methyl iodide | 25 ml | CI | CH3I
reactant | sodium hydride | 7.2 g | [H-].[Na+]
reactant | N-benzyloxycarbonyl-D-alanine | 11.16 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | Water | 100 ml | O | H2O
product | N-benzyloxycarbonyl-N-methyl-D-alanine methyl ester | COC([C@H](N(C)C(=O)OCC1=CC=CC=C1)C)=O | C13H17NO4
